US05753664
6-[4-(4-Fluorobenzoyl)benzyl]thio-5-methyl-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one
To a solution of 6-mercapto-5-methyl-1H-pyrazolo-[3,4-d]pyrimidin-4(5H)-one potassium (1.0 g) in DMF (20 ml) was added 4-(4-fluorobenzoyl)benzyl bromide (1.745 g) and the mixture was stirred at room temperature for 1 hour. This reaction mixture was poured in water and the resulting crystals were collected by filtration, rinsed with water and methanol to provide the title compound as colorless solid (1.467 g).

reactant | 6-mercapto-5-methyl-1H-pyrazolo-[3,4-d]pyrimidin-4(5H)-one potassium | 1.0 g | [K].SC=1N(C(C2=C(N1)NN=C2)=O)C
reactant | 4-(4-fluorobenzoyl)benzyl bromide | 1.745 g | FC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrFO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-[4-(4-Fluorobenzoyl)benzyl]thio-5-methyl-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | 1.467 g | FC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)NN=C4)=O)C)C=C2)C=C1 | C20H15FN4O2S
